US04196250
B. 2,20-Dichloro-6,7,9,10,12,13,15,16-octahydro-22H-dibenzo[n,q][1,4,7,10,13]-pentaoxacyclo-octadecin
10 g (0.037 mole) bis(2-hydroxy-5-chlorophenyl)-methane and 8.6 g (0.037 mole) 1,11-dichloro-3,6,9-trioxaundecane are dissolved in 100 ml n-BuOH. To this is added 6.5 g 50% aqueous sodium hydroxide. The resulting solution is heated to reflux for 15 hours, acidified with ethereal HCl, and solvent stripped in vacuo. The resulting gum is chromatographed on Neutral Alumina IV, eluting with ether/ethyl acetate. Appropriate fractions are collected, combined and recrystallized from methanol to yield 3.65 g white crystalline solid; m.p. 143.5°-144°. Yield: 23%.

reactant | bis(2-hydroxy-5-chlorophenyl)-methane | 0.037 mole, 10 g | OC1=C(C=C(C=C1)Cl)CC1=C(C=CC(=C1)Cl)O | C13H10Cl2O2
reactant | 1,11-dichloro-3,6,9-trioxaundecane | 0.037 mole, 8.6 g | ClCCOCCOCCOCCCl | C8H16Cl2O3
reactant | sodium hydroxide | 6.5 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | n-BuOH | 100 ml | CCCCO | C4H10O
product | 2,20-Dichloro-6,7,9,10,12,13,15,16-octahydro-22H-dibenzo[n,q][1,4,7,10,13]-pentaoxacyclo-octadecin | 3.65 g, Yield: 23% | ClC1=CC2=C(OCCOCCOCCOCCOC3=C(C2)C=C(C=C3)Cl)C=C1 | C21H24Cl2O5
